US05116863
In this example, 350.0 g of triphenylphosphine and 270.0 g of dibromopropane are suspended in 700 ml of toluene and the suspension is heated at reflux for 25 hours. After allowing the suspension to stand for cooling, the formed product is separated by filtration and washed with 2 l of toluene to obtain 550.0 g of (3-bromopropyl)-triphenylphosphonium bromide hydrobromide having m.p. 233-234° C.

reactant | triphenylphosphine | 350.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibromopropane | 270.0 g | BrC(C)(C)Br | C3H6Br2
reactant | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | (3-bromopropyl)-triphenylphosphonium bromide hydrobromide | 550.0 g | Br.[Br-].BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H21BrP.2BrH/c22-17-10-18-23(19-11-4-1-5-12-19,20-13-6-2-7-14-20)21-15-8-3-9-16-21;;/h1-9,11-16H,10,17-18H2;2*1H/q+1;;/p-1
